US03993683
[1-(2'-Chloro-4-biphenylyl)-ethylsulfinyl]-acetic acid methyl ester
A solution of 19.9 gm (0.059 mol) of [1-(2'-chloro-4-biphenylyl)-ethylsulfinyl]-acetic acid and 12.5 gm (0.088 mol) of methyl iodide in 120 ml of dry dimethyl sulfoxide was admixed with 12.2 gm (0.088 mol) of dry potassium carbonate, and the mixture was stirred at room temperature for 19 hours. The crude reaction product was precipitated with water and extracted with ethyl acetate (yield: 23.1. gm). For purification, the obtained crude product was purified by chromatography on 1200 gm of silicagel with cyclohexane ethyl acetate = 1/1. The combined fractions with an Rf -value of 0.23 (on carrier 2) were combined and evaporated, leaving 6.2 gm (31.2% of theory) of the title compound; oil, Rf -value: 0.23 on carrier 1 with cyclohexane/ethyl acetate = 1/1.

reactant | [1-(2'-chloro-4-biphenylyl)-ethylsulfinyl]-acetic acid | 0.059 mol, 19.9 gm | ClC1=C(C=CC=C1)C1=CC=C(C=C1)C(C)S(=O)CC(=O)O | C16H15ClO3S
reactant | methyl iodide | 0.088 mol, 12.5 gm | CI | CH3I
reactant | potassium carbonate | 0.088 mol, 12.2 gm | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 120 ml | CS(=O)C | C2H6OS
product | [1-(2'-Chloro-4-biphenylyl)-ethylsulfinyl]-acetic acid methyl ester | COC(CS(=O)C(C)C1=CC=C(C=C1)C1=C(C=CC=C1)Cl)=O | C17H17ClO3S
